US05011849
Analogously to the method described in Synthesis 10, (1976), 681-682, 47 g (169 mmol) of O-methyl 3-iodothiobenzoate were reacted with ethyl isocyanoacetate in the presence of 1-5% powdered potassium hydroxide in ethanol. Recrystallization from ether yielded 45.8 g (75.4%) of ethyl 5-(3-iodophenyl)-4-thiazolecarboxylate as ochre crystals, melting point 77°-78°.

reactant | O-methyl 3-iodothiobenzoate | 169 mmol, 47 g | IC=1C=C(C(=S)OC)C=CC1 | C8H7IOS
reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 5-(3-iodophenyl)-4-thiazolecarboxylate | 45.8 g, 75.4% | IC=1C=C(C=CC1)C1=C(N=CS1)C(=O)OCC | C12H10INO2S
